US05082841
3-Butyryl-4-(2-methylphenylamino)-8-hydroxyquinoline (3.2 g, 10 mmol) and potassium t-butoxide (5.0 g, 40 mmol) were dissolved in dry DMF (100 ml) and N-(3-chloropropyl)-N-methylbenzylamine hydrochloride (4.1 g, 16 mmol) added. The temperature was raised to 90° and the mixture stirred for 2 hours, then poured into water and extracted with ethyl acetate. Drying, evaporation of the solvent, chromatography (silica gel, 0-3% methanolic ammonia in chloroform) and crystallisation from ether gave 3-butyryl-4-(2-methylphenylamino)-8-(3-(N-benzyl-N-methylamino)propoxy)quinoline (0.7 g, 15%), m.p. 100°-102°.

reactant | 3-Butyryl-4-(2-methylphenylamino)-8-hydroxyquinoline | 10 mmol, 3.2 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)O | C20H20N2O2
reactant | potassium t-butoxide | 40 mmol, 5.0 g | CC(C)([O-])C.[K+]
reactant | N-(3-chloropropyl)-N-methylbenzylamine hydrochloride | 16 mmol, 4.1 g | Cl.ClCCCN(C)CC1=CC=CC=C1
reactant | water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 3-butyryl-4-(2-methylphenylamino)-8-(3-(N-benzyl-N-methylamino)propoxy)quinoline | 0.7 g, 15% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)OCCCN(C)CC1=CC=CC=C1 | C31H35N3O2
